US05371100
Using (1S)-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl] ethanol (578 mg) and 2,6-dichloropurine (490 mg), (2S)-2-[(1R)-1-[2,6-dichloro-9(9 H)-purinyl]ethyl]-2-(2,4-difluorophenyl)oxirane (168 mg) was obtained by the same way as in Reference Example 2.

reactant | (1S)-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl] ethanol | 578 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 2,6-dichloropurine | 490 mg | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
product | (2S)-2-[(1R)-1-[2,6-dichloro-9(9 H)-purinyl]ethyl]-2-(2,4-difluorophenyl)oxirane | 168 mg | ClC1=NC(=C2N=CN(C2=N1)[C@H](C)[C@@]1(OC1)C1=C(C=C(C=C1)F)F)Cl | C15H10Cl2F2N4O
